US07109229B2
(b) {1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-7-yl}-oxo-acetic acid methyl ester
A solution of 7-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole (3.0 g, 9.19 mmol) in THF (100 mL) was cooled to −78° C. and a 1.7 M solution of tBuLi in pentanes (15 mL, 25.5 mmol) added dropwise over 15 min. After 15 min, the resultant bright yellow suspension was transferred over 15 min via a cannula cooled with dry ice to a solution of dimethyl oxalate (3.61 g, 30.6 mmol) in THF (40 mL) maintained at −78° C. After 15 min, the mixture was allowed to warm to room temperature and stirred 3 h. The cloudy yellow mixture was treated with pH 7.0 buffer, poured into-EtOAc and the EtOAc washed with pH 7.0 buffer (brine was added to clarify the layers), brine, dried (MgSO4) and concentrated to a cloudy oil. Flash chromatography (10% EtOAc/hexanes) afforded the title compound (2.59 g, 84%) as a bright yellow oil. 1H NMR (400 MHz, DMSO-d6) 7.97 (dd, J=8, 1 Hz, 1H), 7.64 (d, J=3 Hz, 1H), 7.57 (dd, J=8, 1 Hz, 1H), 7.24 (dd, J=8, 8 Hz, 1H), 6.68 (d, J=3 Hz, 1H), 5.59 (s, 2H), 3.91 (s, 3H), 3.04 (t, J=8 Hz, 2H), 0.62 (t, J=8 Hz, 2H), −0.17 (s, 9H). 13C NMR (75.5 MHz, DMSO-d6) 185.17, 163.31, 132.59, 131.60, 130.87, 127.19, 126.15, 120.09, 118.95, 102.40, 77.05, 63.92, 52.83, 16.74, −1.69. IR (CHCl3, cm−1) 1740, 1683. HRMS 334.1481 (M++1, calcd for C17H24NO4Si 334.1475).

reactant | 7-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole | 9.19 mmol, 3.0 g | BrC=1C=CC=C2C=CN(C12)COCC[Si](C)(C)C | C14H20BrNOSi
reactant | tBuLi | [Li]C(C)(C)C
reactant | dry ice | C(=O)=O | CO2
reactant | dimethyl oxalate | 30.6 mmol, 3.61 g | C(C(=O)OC)(=O)OC | C4H6O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-7-yl}-oxo-acetic acid methyl ester | 2.59 g, 84% | COC(C(=O)C=1C=CC=C2C=CN(C12)COCC[Si](C)(C)C)=O | C17H23NO4Si
